US08080669B2
To a solution of oxazole-5-carboxylic acid methyl ester (1.4 g, 11 mmol) in anhydrous THF (50 mL) at −40° C. under an argon atmosphere was slowly added a solution of LiHMDS (13.3 mL, 1 M in THF). After 1 h at −40° C., solid hexachloroethane (3.91 g, 16.5 mmol) was added. The mixture was then allowed to slowly warm to room temperature and stir for 16 h. The reaction was diluted with AcOEt/H2O (30 mL/10 mL). The organic layer was washed with brine, dried with MgSO4 and filtered. After removal of solvent the residue was silica gel column chromatographed (CH2Cl2/Cyclohexane: 1/1) to give 1.1 g of 2-chloro-oxazole-5-carboxylic acid methyl ester (62%) as a white solid. m.p.=35-50° C.

reactant | oxazole-5-carboxylic acid methyl ester | 11 mmol, 1.4 g | COC(=O)C1=CN=CO1 | C5H5NO3
reactant | LiHMDS | 1 M, 13.3 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | hexachloroethane | 16.5 mmol, 3.91 g | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | AcOEt H2O | 30 mL | CCOC(=O)C.O
product | 2-chloro-oxazole-5-carboxylic acid methyl ester | 1.1 g, 62% | COC(=O)C1=CN=C(O1)Cl | C5H4ClNO3
